US06150373
A solution of 195 mg (0.3 mmol) of 7-anilino-3-(2,4-dichlorophenyl)-3,4-dihydro-1-[4-(2-phthalimidoethyl)phenyl]-pyrimido[4,5-d]pyrimidin-2(1H)-one and 150 μl (3 mmol) of hydrazine hydrate in methanol/dichloromethane (3 ml:3 ml) was stirred at room temperature under an atmosphere of nitrogen overnight. The reaction mixture was evaporated and the residue purified by flash chromatography on silica gel eluting with dichloromethane/methanol/acetic acid/water (120:14:3:2). Product containing fractions were combined and evaporated and the residue re-evaporated with toluene. The residue was dissolved in 20 ml of dichloromethane, washed with saturated aqueous sodium bicarbonate (20 ml), dried over magnesium sulfate, filtered and evaporated to give 90 mg (67%) of 1-[4-(2-aminoethyl)phenyl]-7-anilino-3-(2,4-dichlorophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 117-121° C. [Mass spectrum (ESI) MH+ =505].

reactant | 7-anilino-3-(2,4-dichlorophenyl)-3,4-dihydro-1-[4-(2-phthalimidoethyl)phenyl]-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.3 mmol, 195 mg | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=C(C=C2)Cl)Cl)=O)C2=CC=C(C=C2)CCN2C(C=1C(C2=O)=CC=CC1)=O | C34H24Cl2N6O3
reactant | hydrazine hydrate | 3 mmol, 150 μl | O.NN
solvent | methanol dichloromethane | 3 ml | CO.ClCCl
product | 1-[4-(2-aminoethyl)phenyl]-7-anilino-3-(2,4-dichlorophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 90 mg, 67% | NCCC1=CC=C(C=C1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=C(C=C(C=C2)Cl)Cl)=O | C26H22Cl2N6O
